US06307056B1
Step A: 4-Indoleboronic Acid
To a suspension of sodium hydride (130 mg, 5.41 mmol) in anhydrous tetrahydrofuran (20 mL) was added 4-bromoindole (973 mg, 4.96 mmol) (see Kosuge et al. supra) at 0° C. After 15 min. of stirring at 0° C., the reaction was cooled to −78° C., and tert-butyllithium (10.2 mmol, 1.7 M in hexane) (Aldrich) was added dropwise (a white precipitate immediately formed). After 10 min. tri-n-butylborate (2.75 mL, 10.2 mmol) (Aldrich) was added dropwise. The reaction was allowed to slowly warm to room temperature, then the suspension was poured into an ice cold solution of 1N HCl. The organic phase was separated, and the aqueous phase was washed with ether. The combined organic extracts were extracted with 1N NaOH (3×25 mL), and the combined alkaline extracts were acidified to pH 1 with 1N HCl. The product was then extracted with ether, and the combined ether layers were dried over magnesium sulfate and concentrated in vacuo to yield a brownish solid. The product was recrystallized from boiling water to yield 367 mg (46%) white crystals.

reactant | sodium hydride | 5.41 mmol, 130 mg | [H-].[Na+]
reactant | 4-bromoindole | 4.96 mmol, 973 mg | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | tert-butyllithium | 10.2 mmol, 1.7 M | C(C)(C)(C)[Li]
reactant | tri-n-butylborate | 10.2 mmol, 2.75 mL | C(CCC)OB(OCCCC)OCCCC | C12H27BO3
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-Indoleboronic Acid | 367 mg, 46% | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
